US08377923B2
4-cyano-2-fluorobenzoic acid (1.20 g), HOBt (1.47 g), WSC•monohydrochloride (2.10 g) and DMF (20 ml) were mixed with one another and stirred for 30 minutes. 2M methylamine-THF solution (11 ml) was added thereto, followed by stirring for 30 minutes. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with water and then saturated brine in this order, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=100:1). The resulting solid was washed with n-hexane, to obtain 4-cyano-2-fluoro-N-methylbenzamide (1.03 g) as a white solid.

reactant | 4-cyano-2-fluorobenzoic acid | 1.20 g | C(#N)C1=CC(=C(C(=O)O)C=C1)F | C8H4FNO2
reactant | HOBt | 1.47 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | methylamine THF | 2M, 11 ml | CN.C1CCOC1
solvent | Water | O | H2O
product | 4-cyano-2-fluoro-N-methylbenzamide | 1.03 g | C(#N)C1=CC(=C(C(=O)NC)C=C1)F | C9H7FN2O
